US07691877B2
4-Hydroxy-3-isobutyryl-6-isopropyl-pyran-2-one
4-Methyl-3-oxo-pentanoic acid (16.4 g, 126 mmol) was taken up in THF (200 mL) at room temperature under a nitrogen atmosphere, and 1,1-carbonyldiimidazole (22.4 g, 138 mmol) was added in one portion. The reuslting yellow solution was stirred at room temperature for 16 h, and then concentrated in vacuo and the residue diluted with DCM (200 mL). The solution was washed with 2N HCl (100 mL) and water (100 mL) and the aqueous was re-extracted with DCM (50 mL). The combined organics were dried over sodium sulfate and were then concentrated in vacuo to give the title compound as a yellow oil (11.7 g, 80%).

reactant | 4-Methyl-3-oxo-pentanoic acid | 126 mmol, 16.4 g | CC(C(CC(=O)O)=O)C | C6H10O3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-3-isobutyryl-6-isopropyl-pyran-2-one | 11.7 g, 80% | OC1=C(C(OC(=C1)C(C)C)=O)C(C(C)C)=O | C12H16O4
